Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
collapse
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: (obtained from daughter)
___ year old female was walking today and fell off the curb. Her 
daughter left her side for a few seconds and when she turned 
around the patient was unconscious on the ground. This lasted 
for about ___ minutes. She was taken to an OSH where she was 
confused and then she became agitated. The patient was then 
intubated. She had a head CT which revealed SAH and she was 
given phosphenytoin. Then she was transferred to ___ for 
further evaluation.
 
Past Medical History:
PMHx:Depressive disorder, essential HTN, hyperlipidemia, anemia,
asthma, skin  lesions, hearing impairment, TAH/BSO
 
Social History:
___
Family History:
nc
 
Physical Exam:
PHYSICAL EXAM:
T:96.7  BP:167/86    HR:60    RR:18       O2Sats:100% vented
Gen: Intubated and off sedation for exam.
HEENT: Pupils: PERRL        EOMs-unable to test
Neck: In hard cervical collar.
Lungs: CTA bilaterally, vented.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: intubated, unresponsive, no eye opening

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 5 to 4 mm
bilaterally.
III-XII: unable to test

Motor: Patient moves all extremities to sternal rub. No
localizing. No commands. 

Sensation: unable to test

Toes downgoing bilaterally

+ 3-beat clonus bilaterally

ON discharge:
Basleine dementia, Awake alert pleasant and oriented x2-3 with 
prompting / HOH / speech fluent / comprehension intact / follows 
complex commands / no drift/ no facial /perrl/ eomi / palate 
equal / tongue ML / MAE well with ___ right tricep limited to 
pain.  
 
Pertinent Results:
Hematology 
  COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 05:10AM    7.7 3.30* 9.8* 30.4* 92 29.7 32.2 13.3 
337 
DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas 
___ 11:00AM    88.0*   6.7* 3.9 1.1 0.2     
TRAUMA 
  BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 05:10AM        337   
BASIC COAGULATION (FIBRINOGEN, DD, TT, REPTILASE, BT) Fibrino 
___ 11:00AM    303 
TRAUMA 
 
Chemistry 
  RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 05:10AM    ___ 141 3.6 ___ 
ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 11:00AM   

CT Head: ___
INDICATION: Patient is an ___ female status post fall at 
outside 
hospital stated orbital fracture and hemorrhage. Intubated. 
Evaluate for 
progression of hemorrhage from outside film. 
  
EXAMINATION: Non-contrast head CT. 
  
COMPARISONS: Comparison made to outside reference CTs from 
___. 
  
TECHNIQUE: Contiguous axial images were obtained through the 
brain. No 
intravenous contrast was administered. Coronal and sagittal 
reformations were 
obtained. 
  
FINDINGS: There are two linear foci of high attenuation tracking 
adjacent to the right frontal lobe, best seen on (2:19 and 2:22) 
that are most compatible with areas of subarachnoid hemorrhage, 
and a more focal rounded area of high attenuation best seen on 
(2:21) that is most likely subarachnoid hemorrhage, however, an 
intraparenchymal location cannot be excluded. There is no 
evidence of mass effect with no midline shift. The gray-white 
matter differentiation is preserved with no evidence of acute 
territorial infarction. There is extensive periventricular 
hypodensity, compatible with chronic small vessel ischemic 
changes. The ventricles and sulci are prominent, most compatible 
with age-related involutional changes. Note is made of an air- 
fluid level seen within the right maxillary sinus with 
high-attenuation components most suggestive of hemorrhage, 
however, no definitive associated facial bone fracture is 
identified. The remainder of the paranasal sinuses and mastoid 
air cells are well aerated. In comparison to outside hospital 
CTs, linear foci of hemorrhage, not significantly changed in 
size or distribution. 
  
IMPRESSION: 
1. Stable in appearance since outside hospital examinations, 
linear foci of high attenuation located adjacent to the right 
frontal lobe most compatible with areas of subarachnoid 
hemorrhage, however, with a more focal rounded area that is most 
likely subarachnoid in location, however, intraparenchymal 
location cannot be excluded. 
  
2. Air/blood-fluid level seen within the right maxillary sinus 
suggestive of occult fracture, however, no gross fracture 
visualized. 

CT Head: ___
HISTORY: ___ female with subarachnoid hemorrhage. This 
is a followup exam. 
  
COMPARISON: Non-contrast head seven and a half hours prior ___, 
12:27 p.m.). 
  
TECHNIQUE: Non-contrast head CT was obtained. 
  
FINDINGS: In comparison to the most recent prior study, there is 
little 
change foci of high attenuation within or adjacent (3:19, 24). 
There is no 
mass effect or shift of normally midline structures. Gray-white 
matter 
differentiation remains preserved. Extensive periventricular 
hypodensities 
compatible with chronic small vessel ischemic changes are 
similar to the prior studies. The ventricles and sulci remain 
prominent, likely due to age-related involutional change. 
Prominence of the CSF spaces bilaterally is unchanged. 
  
Air-fluid level in the right maxillary sinus, with high 
attenuation is most likely hemorrhage, although as on the prior 
study, no definite facial fracture is identified. The visualized 
paranasal sinuses and mastoid air cells remain well aerated. 
  
IMPRESSION: 
1. Unchanged linear foci of high attenuation within or adjacent 
to the right 
frontal lobe compatible subarachnoid hemorrhage. No new 
intracranial 
hemorrhage. 
2. Unchanged air/blood-fluid level in the right maxillary sinus. 
No 
obvious fracture is identified. 
3. Unchanged prominence of the CSF spaces bilaterally 
predominantly overlying the cerebral hemispheres. While this may 
be due to atrophy or subdural hygroma . 
  
MRI Brain: ___
Final Report 
EXAMINATION: MR head with and without contrast. 
  
TECHNIQUE: Multiplanar MR imaging of the brain was performed 
with and without intravenous gadolinium. Magnevist 12 mL for 131 
pounds. 
  
HISTORY: ___ female with altered mental status. 
  
Comparison with prior CT brain performed ___. 
  
FINDINGS: 
  
Bilateral near CSF intensity, frontoparietal subdural 
collections are again identified, consistent with CT findings. 
  
Gradient echo images demonstrate a region of susceptibility 
artifact in the right frontal lobe consistent with hyperdense 
focus seen on CT. There is diffuse T2/FLAIR signal 
hyperintensity within the periventricular and deep subcortical 
white matter. Additionally noted is an old lacunar infarct in 
the left lentiform nucleus. The intracranial arterial flow voids 
are patent. There is minimal fluid within the mastoid air cells. 
There is no evidence of restricted defusion to suggest acute 
ischemia. There is no abnormal parenchymal enhancement 
identified. 
  
IMPRESSION: 
  
1. Persistent bilateral frontoparietal chronic subdural 
hygromas/hematomas. 
  
2. Probable focus of old subarachnoid hemorrhage in the right 
frontal lobe. 
  
3. Severe microangiopathic ischemia white matter disease. 
  
Hip X-ray ___
HISTORY: ___ female with left hip pain and fall. 
  
TECHNIQUE: AP PELVIS AND LEFT HIP, TWO VIEWS 
  
There are no prior radiographs for comparison. 
  
There are bilateral total hip arthroplasties, in expected 
position, without evidence of hardware loosening or 
complications. There are old healed fractures of the left 
superior and inferior pubic rami. There is an ossific fragment 
measuring 1.3 x 1.9 cm lateral to the right hip joint which may 
represent heterotopic ossification or an old avulsion fracture. 
There is degenerative disease of the lower lumber spine. 
Incidental phleboliths are noted in the pelvis. 
  
IMPRESSION: Stable bilateral hip arthroplasties, no acute 
changes, 
degenerative disease. 
  
The study and the report were reviewed by the staff radiologist. 

  
Wrist X-ray: ___
HISTORY: Fall and wrist pain. 
  
RIGHT WRIST, THREE VIEWS: There are no prior radiographs for 
comparison. 
  
There is diffuse demineralization. There are no acute fractures 
or 
dislocations. 
  
IMPRESSION: Unremarkable exam. 

EEG: ___ 
FINDINGS:  
NOTE: Most of this tracing was obscured by muscle and movement 
artifact. 
ABNORMALITY #1: The portion of the tracing that was relatively 
artifact-free demonstrated a generally regular, ___ Hz mixed 
delta 
frequency slow background without obvious asymmetries of 
amplitude or 
frequency. 
BACKGROUND: As above. 
HYPERVENTILATION: Could not be performed as the patient was 
unable to 
cooperate. 
INTERMITTENT PHOTIC STIMULATION: Could not be performed as the 
test was 
requested as a portable study. 
SLEEP: There were no normal sleep or wake transitions seen. 
CARDIAC MONITOR: Revealed a generally regular rhythm with 
average rate 
of 96 bpm. 
IMPRESSION: This EEG was without obvious abnormalities, but much 
of the 
tracing was obscured by movement and muscle artifact. If 
clinical 
suspicion remains high for seizure activity, a repeat tracing or 

continuous EEG recording may provide additional diagnostic 
information 
but should be performed at a time when the patient is better 
able to 
cooperate with the test. 

EEG ___ and ___: wet read: No acute changes. Diffuse slowing 
consistant with whote matter disease.

EKG: ___
Sinus bradycardia with borderline first degree A-V block. 
Non-specific 
slight ST-T wave changes. No previous tracing available for 
comparison.
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
57 210 96 ___ 33 

 

  
 
Brief Hospital Course:
Pt was admitted to the SICU and monitored closely.  She remained 
intubated.  Her neurologic exam showed movement of all 
extremities but not following commands.  Her poor exam was 
inconsistent with smalll amount of blood present in head on CT.  
Neurology consult was obtained who recommended EEG and MRI.  Pt 
did slowly improve, was extubated and transferred to stepdown 
unit.  By HD# 5 she was following commands and conversant with 
no motor deficits - markedly improved neurologic exam.  She had 
UTI found on UA and was treated with antibiotics.  She was seen 
by speech and swallow and started on POs and progressed to 
regular diet with thin liquids but did require 1 to 1 
supervision with meals. She complained of left hip pain and 
right wrist pain.  Xrays were taken.  Left hip xrays showed well 
positioned hardware/ no acute fracture and right wrist xrays 
showed no sign of fracture.
24 hr EEG was performed and showed bilateral diffuse slowing 
consistant with white matter disease. MRI head was done and 
showed persistent bilateral frontoparietal chronic subdural 
hygromas/hematomas as well as probable focus of old subarachnoid 
hemorrhage in the right frontal lobe. Severe microangiopathic 
ischemia white matter disease was demonstrated. 
She was evaluated by ___ and OT and was recommended for rehab. On 
___ she continued to show improvement in her cognition. She 
had decreased pain at right wrist and the left hip. It was felt 
that she was medically cleared to be transfered to a rehab 
facility and the patient and her daughter agreed with this plan.
 
Medications on Admission:
Medications prior to admission:
HCTZ 12.5mg daily
Celexa 20mg daily
Flovent HFA 110 mcg/act aero - 1 inhalation daily 
Flonase 50 mcg/act suspension - 1 spray each nostril Qpm
Aspirin 81 mg daily
Ditropan 5 mg QHS
Boniva 150 mg - 1 tablet every month
Celebrex ___ mg daily
Tylenol ___ mg PRN
Multivitamin daily
Vitamin D 400 unit tablets - 2 tabs daily
Os-cal 500 + D tabls - 1 tablet BID
Vitamin E 400 IU cap - 1 tablet daily
Vitamin C 500 mg daily
Vitamin B6 - 1 tablet 3 x per week
Thiamine 100 mg - 1 tablet 3 x per week
Vitamin B1 100mg - 1 tablet 3 x per week
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Insulin Regular Human 100 unit/mL Solution Sig: One (1)  
Injection ASDIR (AS DIRECTED).  
3. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
4. Fluticasone 110 mcg/Actuation Aerosol Sig: One (1) Puff 
Inhalation DAILY (Daily).  
5. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal QPM (once a day (in the evening)).  
6. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO Q 8H (Every 8 Hours) for 2 days: to end after last dose on 
___.  
10. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
11. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
12. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
13. Haloperidol Lactate 5 mg/mL Solution Sig: 0.25 mg Injection 
Q4H (every 4 hours) as needed for agitation.  
14. Haloperidol 0.5 mg Tablet Sig: 0.25 mg PO Once Daily at 6 
___.  
15. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for left hip pain  for 48 days.  
16. Ondansetron 4 mg IV Q8H:PRN nausea 
17. HydrALAzine 10 mg IV Q6 PRN SBP >160 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Traumatic brain injury
UTI

 
Discharge Condition:
neurologically improved

 
Discharge Instructions:
General Instructions

•Take your medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•You have been prescribed Dilantin (Phenytoin) for anti-seizure 
medicine, take it as prescribed through ___ then discontinue.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.
 
Followup Instructions:
___